US05359076
Methyl p-aminophenylacetate (7 g), ethyl trifluoroacetoacetate (8.19 g) and p-toluenesulfonic acid (500 mg) were dissolved into benzene (100 ml) and, providing Dean Stalk dehydrating apparatus placed molecular sieve (MS 4 angstroms) therein, the solution was refluxed for 10 hours under heat. Solvent was distilled off under reduced pressure and the residue was purified by means of silica gel column chromatography (development solvent: ethyl acetate:hexane=1:4) to obtain methyl 3-(4-methoxycarbonylmethylphenylamino)-3-trifluoromethylacrylate (7.18 g) as colorless prismatic crystals. Melting point: 50°-51° C. (recrystallization solvent: ethyl acetate-n-hexane)

reactant | Methyl p-aminophenylacetate | 7 g | NC1=CC=C(C=C1)CC(=O)OC | C9H11NO2
reactant | ethyl trifluoroacetoacetate | 8.19 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | p-toluenesulfonic acid | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | methyl 3-(4-methoxycarbonylmethylphenylamino)-3-trifluoromethylacrylate | 7.18 g | COC(=O)CC1=CC=C(C=C1)NC(=CC(=O)OC)C(F)(F)F | C14H14F3NO4
